US05451688
(4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6-t-butyldimethylsilyloxy-8-(2-propylvaleryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one
15 mg (0.1 mmol) of 4-(1-pyrrolidinyl)pyridine and 592 mg (3.6 mmol) of 2-propylvaleryl chloride were added to a solution of 1.0 g (1.8 mmol) of (4R,6R)-6-{2[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-hydroxy-2-methyl-1-naphthyl]ethyl}-tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Example B, above] in 5 ml of dry pyridine, whilst ice-cooling, and the resulting mixture was stirred at 70° C. for 3 hours. At the end of this time, the reaction mixture was diluted with 100 ml of ethyl acetate, and the diluted mixture was then washed with 100 ml of water, 100 ml of a 10% w/v aqueous solution of hydrogen chloride, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, in that order. The organic layer was then dried over anhydrous magnesium sulfate, after which this layer was removed by filtration. The resulting filtrate was concentrated by evaporation under reduced pressure and the residue obtained was purified by flash column chromatography through silica gel, using a 5:1 by volume mixture hexane and ethyl acetate as the eluent, to give 1.15 g (93% yield) of the title compound.

reactant | 2-propylvaleryl chloride | 3.6 mmol, 592 mg | C(CC)C(C(=O)Cl)CCC | C8H15ClO
reactant | (4R,6R)-6-{2[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-hydroxy-2-methyl-1-naphthyl]ethyl}-tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.8 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C30H54O5Si2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-(1-pyrrolidinyl)pyridine | 0.1 mmol, 15 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
product | (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6-t-butyldimethylsilyloxy-8-(2-propylvaleryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.15 g, 93% yield | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)OC(C(CCC)CCC)=O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C38H68O6Si2
